US05102877
To a solution of sodium hydride (60% in oil, 816 mg) and methyl iodide (4.9 ml) in tetrahydrofuran (50 ml), which was heated at 50°-60° C., was added dropwise a solution of (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-hydroxymethylpyrrolidine (5.2 g) in tetrahydrofuran (10 ml). After stirring for two hours, the reaction mixture was poured into a mixture of water and ethyl acetate, the organic layer was separated, washed in turn with saturated aqueous sodium sulfite and brine, dried over magnesium sulfate. Evaporation of the solvent gave an oil, which was chromatographed on silica gel (200 ml) eluting with a mixture of hexane and ethyl acetate (4:1, V/V) to give (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-methoxymethylpyrrolidine (4.5 g).

reactant | sodium hydride | 816 mg | [H-].[Na+]
reactant | methyl iodide | 4.9 ml | CI | CH3I
reactant | (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-hydroxymethylpyrrolidine | 5.2 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C16H33NO4Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-methoxymethylpyrrolidine | 4.5 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COC | C17H35NO4Si
